US07632857B2
[2-(S)-(2-(S)-Fluoromethyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-(4′-trifluoromethyl-biphenyl-4-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure RR starting from (2-(S)-hydroxymethyl-pyrrolidin-1-yl)-(4′-trifluoromethyl-biphenyl-4-yl)-methanone and 2-(S)-Fluoromethyl-pyrrolidine (CAS 460748-85-0) MS (M+H) 435.2

reactant | (2-(S)-hydroxymethyl-pyrrolidin-1-yl)-(4′-trifluoromethyl-biphenyl-4-yl)-methanone | OC[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3NO2
reactant | 2-(S)-Fluoromethyl-pyrrolidine | FC[C@H]1NCCC1 | C5H10FN
product | [2-(S)-(2-(S)-Fluoromethyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-(4′-trifluoromethyl-biphenyl-4-yl)-methanone | FC[C@H]1N(CCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C24H26F4N2O
